US04960771
Preparation of 4-(dodecanoyloxymethyl)-4-methyloxazolidin-2-one
A solution of 10.5 g of 2-amino-2-methyl-1,3-propanediol and 12.3 g of diethyl carbonate, 0.5 g of sodium ethoxide in 100 ml of toluene was refluxed for 20 hours, cooled and concentrated at reduced pressure to give 13.6 g of crude product. Recrystallization from ethanol gave 9.23 g (67%) of4-hydroxymethyl-4-methyloxazolidin-2-one, m.p. 115 C. To a solution of 2.62 g of 4-hydroxymethyl-4-methyloxazolidin-2-one and 5 ml of triethylamine in 100 ml of dichloromethane was added dropwise 4.6 g of dodecanoyl chloride in 10 ml of dichloromethane. After 3 hours at room temperature the reaction mixture was concentrated, the residue was taken up in ether and washed with aqueous sodium bicarbonate. The ether layer was dried and concentrated to give 4.33 g (69%) of a thick yellow oil. Recrystallization from dichloromethane/hexane (1:10) gave 2.73 g (45%) of white crystals, m.p. 53-55 C.

reactant | 4-hydroxymethyl-4-methyloxazolidin-2-one | 2.62 g | OCC1(NC(OC1)=O)C | C5H9NO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | dodecanoyl chloride | 4.6 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(dodecanoyloxymethyl)-4-methyloxazolidin-2-one | 4.33 g, 69% | C(CCCCCCCCCCC)(=O)OCC1(NC(OC1)=O)C | C17H31NO4
